US09212192B2
1,2,3-trifluoro-4-methoxy-5-nitrobenzene
To a solution of 1,2,3-trifluoro-4-methoxybenzene (1.6 g, 10 mmol) in acetic acid (20 mL) was added nitric acid (5 mL) and the mixture was heated at 60° C. for 3 hours. After cooling to ambient temperature, water (100 mL) was added and the mixture was extracted with ethyl acetate (3×100 mL). The organic layers were concentrated to give the crude title compound, which was used in the next step without further purification.

reactant | 1,2,3-trifluoro-4-methoxybenzene | 10 mmol, 1.6 g | FC1=C(C(=C(C=C1)OC)F)F | C7H5F3O
reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | 100 mL | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 1,2,3-trifluoro-4-methoxy-5-nitrobenzene | FC1=C(C(=C(C(=C1)[N+](=O)[O-])OC)F)F | C7H4F3NO3
